US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(m-trifluoromethylbenzoyl)-2-(p-anisidino)propionic acid and methyl 4-(p-anisidino)butyrate and suitable processing produces methyl N-[N-(m-trifluoromethylbenzoyl)-2-(p-anisidino)propionyl]-4-(p-anisidino)butyrate (oil), saponification of which and processing of the reaction product yields N-[N-(m-trifluoromethylbenzoyl)2-(p-anisidino)propionyl]-4-(p-anisidino)butyric acid (M.P. 119° to 121°).

reactant | N-(m-trifluoromethylbenzoyl)-2-(p-anisidino)propionic acid | FC(C=1C=C(C(=O)N(C2=CC=C(OC)C=C2)C(C(=O)O)C)C=CC1)(F)F | C18H16F3NO4
reactant | methyl 4-(p-anisidino)butyrate | COC1=CC=C(C=C1)NCCCC(=O)OC | C12H17NO3
product | methyl N-[N-(m-trifluoromethylbenzoyl)-2-(p-anisidino)propionyl]-4-(p-anisidino)butyrate | FC(C=1C=C(C(=O)N(C2=CC=C(OC)C=C2)C(C(=O)N(C2=CC=C(OC)C=C2)CCCC(=O)OC)C)C=CC1)(F)F | C30H31F3N2O6
